US04556660
A mixture of 25 parts of 1-(phenylmethyl)-3-piperidinone hydrochloride, 55 parts of 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide, 1 parts of a solution of thiophene in ethanol 4%, 50 parts of potassium acetate and 500 parts of 2-methoxyethanol was hydrogenated at normal pressure and at 50° C. with 5 parts of palldium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was taken up in water and the whole was alkalized with sodium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized twice from acetonitrile. The product was filtered off and dried, yielding 9.75 parts of 1-[(4-fluorophenyl)methyl]-N-[1'-(phenylmethyl)-[1,3'-bipiperidin]-4-yl]-1H-benzimidazol-2-amine; mp. 174.6° C. (intermediate 70).

reactant | 1-(phenylmethyl)-3-piperidinone hydrochloride | Cl.C1(=CC=CC=C1)CN1CC(CCC1)=O
reactant | 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide | Br.Br.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | 1-[(4-fluorophenyl)methyl]-N-[1'-(phenylmethyl)-[1,3'-bipiperidin]-4-yl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C2CN(CCC2)CC2=CC=CC=C2 | C31H36FN5
